US06096921
Preparation of 4-(4-benzyloxycarbonylphenoxy) nonafluoro-biphenyl
37.6 g of decafluorobiphenyl (0.112 mol) are dissolved in 700 ml of dimethylformamide, and the solution is cooled to -10° C. by means of a cryostat, and a solution of 15 g of potassium 4-benzyloxycarbonylphenoxide (0.056 mol) in 300 ml of dimethylformamide is then added drop wise over the course of 2 hours. After 48 hours at -10° C., the potassium salt has reacted. The dimethylformamide is then removed in a rotary evaporator, and the residue is taken up in a little tetrahydrofuran and filtered via a silica-gel column. The clear solution obtained is evaporated in a rotary evaporator until the reaction product precipitates out. The reaction product is then stirred in n-hexane, filtered off via a fluted filter and then dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet.

reactant | decafluorobiphenyl | 0.112 mol, 37.6 g | FC1=C(C(=C(C(=C1C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C12F10
reactant | potassium 4-benzyloxycarbonylphenoxide | 0.056 mol, 15 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C([O-])C=C1.[K+]
reactant | potassium | [K] | K
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 4-(4-benzyloxycarbonylphenoxy) nonafluoro-biphenyl | C(C1=CC=CC=C1)OC(=O)C1=CC=C(OC2=C(C(=C(C(=C2F)F)C2=C(C(=C(C(=C2F)F)F)F)F)F)F)C=C1 | C26H11F9O3
